US07700595B2
3-Benzyl-4-phenyl-8-(trifluoromethyl)cinnoline
2-(1,3-Diphenyl-propenyl)-6-trifluoromethyl-phenylamine (0.08 g, 0.23 mmol) was dissolved in 5 mL of acetic acid, 4 mL of conc. hydrochloric acid in an ice bath. The mixture was treated with 2.5% of sodium nitrate in water. After addition the reaction was heated to ˜40° C. for 20 min, basified with ammonium hydroxide, and extracted with diethyl ether. The combined organics was dried over MgSO4 and concentrated. The material was purified by semi-preparative HPLC (Column: Phenomenex C18 Luna 2.1.6 mm×60 mm, 5 μM; Solvent A: Water (0.1% TFA buffer); Solvent B: Acetonitrile (0.1% TFA buffer); Solvent Gradient: Time 0: 0% B; 10 min: 100% B; Hold 100% B 5 min. Flow Rate: 22.5 mL/min). The product was collected based on UV absorption and concentrated to give the title compound as a brown solid. MS (ESI) m/z 365.

reactant | 2-(1,3-Diphenyl-propenyl)-6-trifluoromethyl-phenylamine | 0.23 mmol, 0.08 g | C1(=CC=CC=C1)C(=CCC1=CC=CC=C1)C1=C(C(=CC=C1)C(F)(F)F)N | C22H18F3N
reactant | hydrochloric acid | 4 mL | Cl | ClH
reactant | sodium nitrate | [N+](=O)([O-])[O-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-Benzyl-4-phenyl-8-(trifluoromethyl)cinnoline | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C22H15F3N2
